US07074817B2
Ethyl {1-benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetate
Ethyl 2-{1-benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indol-3-yl}-2-oxoacetate was prepared from 1-benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indole (1.07 g, 2.56 mmol), oxalyl chloride (1.3 mL, 15 mmol), and ethanol (6 mL) following the procedure described in Step 3 of Example 1. Purification by HPLC (reverse phase column) using 85% acetonitrile and 0.1% trifluoroacetic acid in water as the mobile phase yielded the title compound as a light yellow solid (0.746 g, 56%). 1HNMR (300 MHz, DMSO-d6): δ 8.8 (s, 1H), 8.5 (s, 1H), 8.3 (s, 2H), 8.1 (s, 1H), 7.75 (s, 2H), 7.25-7.4 (m, 5H), 5.65 (s, 2H), 4.35 (q, 2H, J=7.5 Hz), and 1.35 ppm (t, 3H, J=7.5 Hz).

reactant | 1-benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indole | 2.56 mmol, 1.07 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H15F6N
reactant | oxalyl chloride | 15 mmol, 1.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 6 mL | C(C)O | C2H6O
product | Ethyl {1-benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetate | 0.746 g, 56% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C(=O)OCC)=O | C27H19F6NO3
